US04810713
1-[4-[5-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]pentoxy]-3-methoxyphenyl]ethanone hemihydrate
A mixture of 6.03 g (0.021 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine, 5.69 g (0.021 mole) of 1-[4-(5-chloropentoxy)-3-methoxyphenyl]ethanone, and potassium carbonate (5.53 g, 0.04 mole) was heated overnight at gentle reflux in 350 ml of 1-butanol containing potassium iodide (0.2 g). The reaction mixture was cooled at room temperature, filtered, and striped to dryness. The residue obtained was dissolved in chloroform and extracted several times with water. The chloroform layer was dried (sodium sulfate), filtered, and solvent removed to give a brown oil. This oil was subjected to flsh chromatography on silica gel using ethyl acetate and 2% methanol-ethyl acetate for elution. Fractions of similar purity were combined and solvent removed. The sample was dried in vacuo at 70° C. overnight after being exposed to the atmosphere for 24 hours. A yield of 2.7 g (24.6%) of brown oil was obtained.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.021 mole, 6.03 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 1-[4-(5-chloropentoxy)-3-methoxyphenyl]ethanone | 0.021 mole, 5.69 g | ClCCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C14H19ClO3
reactant | potassium carbonate | 0.04 mole, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | 1-butanol | 350 ml | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-[5-[4-[Bis(4-fluorophenyl)methyl]-1-piperidinyl]pentoxy]-3-methoxyphenyl]ethanone hemihydrate | yield of 2.7 g, 24.6% | O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCCOC1=C(C=C(C=C1)C(C)=O)OC)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)C1CCN(CC1)CCCCCOC1=C(C=C(C=C1)C(C)=O)OC | InChI=1S/2C32H37F2NO3.H2O/c2*1-23(36)27-10-15-30(31(22-27)37-2)38-21-5-3-4-18-35-19-16-26(17-20-35)32(24-6-11-28(33)12-7-24)25-8-13-29(34)14-9-25;/h2*6-15,22,26,32H,3-5,16-21H2,1-2H3;1H2
